US04707483
A solution of 3-acetyl-8-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine (13 g, 0.01 m) in methylene chloride (50 ml) stirred at 5° was treated with chlorosulfonic acid (11.6 g, 0.1 m). The mixture was stirred at 25° for 2 hours, poured into ice water and extracted with chloroform. The chloroform extract was washed, dried with sodium sulfate and concentrated in vacuo to give 3-acetyl-7-chlorosulfonyl-1-[4-(chlorosulfonyl)phenyl]-8-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 3-acetyl-8-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 13 g | C(C)(=O)N1CCC2=C(C(C1)C1=CC=CC=C1)C=C(C=C2)OC | C19H21NO2
reactant | chlorosulfonic acid | 11.6 g | ClS(=O)(=O)O | ClHO3S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-acetyl-7-chlorosulfonyl-1-[4-(chlorosulfonyl)phenyl]-8-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(C(C1)C1=CC=C(C=C1)S(=O)(=O)Cl)C=C(C(=C2)S(=O)(=O)Cl)OC | C19H19Cl2NO6S2
